US07943607B2
3-[(2-Methyl-1,1-dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-1H-pyrazol-3-ylbenzamide
Trifluoroacetic acid (1 mL) was added to a solution of 1,1-dimethylethyl 3-{[(3-[(2-methyl-1,1-dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}phenyl)carbonyl]amino}-1H-pyrazole-1-carboxylate (50 mg, 0.08 mmol) in DCM (8 mL) and stirred at RT for 2 hours. The solvent was removed in vacuo and DCM (20 mL). The mixture was washed with water (20 mL), a saturated solution of sodium bicarbonate (20 mL), brine (20 mL), dried (MgSO4), filtered and reduced in vacuo to give the desired compound as a white foam (31 mg). 1H NMR δ (CDCl3): 1.33 (d, 3H), 2.80 (s, 3H), 3.40 (s, 3H), 3.51-3.61 (m, 2H), 3.71-3.73 (m, 2H), 4.17-4.22 (m, 2H), 4.57-4.65 (m, 1H), 6.72-6.74 (m, 1H), 6.79-6.84 (m, 2H), 6.86 (s, 1H), 7.20 (s, 1H), 7.41 (s, 1H), 7.49 (s, 1H), 7.78 (d, 1H), 9.59 (s, 1H), 10.20 (s, 1H); m/z 503 (M+H)+

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1,1-dimethylethyl 3-{[(3-[(2-methyl-1,1-dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}phenyl)carbonyl]amino}-1H-pyrazole-1-carboxylate | 0.08 mmol, 50 mg | CN1S(C2=C(OCC1)C=C(C=C2)OC=2C=C(C=C(C2)O[C@H](COC)C)C(=O)NC2=NN(C=C2)C(=O)OC(C)(C)C)(=O)=O | C28H34N4O9S
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | 3-[(2-Methyl-1,1-dioxido-3,4-dihydro-2H-5,1,2-benzoxathiazepin-7-yl)oxy]-5-{[(1S)-1-methyl-2-(methyloxy)ethyl]oxy}-N-1H-pyrazol-3-ylbenzamide | 31 mg | CN1S(C2=C(OCC1)C=C(C=C2)OC=2C=C(C(=O)NC1=NNC=C1)C=C(C2)O[C@H](COC)C)(=O)=O | C23H26N4O7S
